US07109200B2
1-{[4-Ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-4-(4-vinylbenzenesulfonyl)-2-piperazinone hydrochloride
1-{[4-Ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-4-(4-vinylbenzenesulfonyl)-2-piperazinone (86 mg) was suspended in ethyl acetate (10 ml), a 4N hydrochloric acid solution in ethyl acetate (0.3 ml) was added, and the resulting crystals were filtered off to obtain the title compound (38 mg) as colorless powders.

reactant | 1-{[4-Ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-4-(4-vinylbenzenesulfonyl)-2-piperazinone | 86 mg | C(C)OC(=O)NC1(CCN(CC1)C1=CC(=NC=C1)C)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C=C)=O | C27H35N5O5S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.3 ml | C(C)(=O)OCC | C4H8O2
product | 1-{[4-Ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-4-(4-vinylbenzenesulfonyl)-2-piperazinone hydrochloride | 38 mg | Cl.C(C)OC(=O)NC1(CCN(CC1)C1=CC(=NC=C1)C)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C=C)=O | InChI=1S/C27H35N5O5S.ClH/c1-4-22-6-8-24(9-7-22)38(35,36)32-17-16-31(25(33)19-32)20-27(29-26(34)37-5-2)11-14-30(15-12-27)23-10-13-28-21(3)18-23;/h4,6-10,13,18H,1,5,11-12,14-17,19-20H2,2-3H3,(H,29,34);1H
